US08242282B2
8. Synthesis of 4-((2-amino-3-(5-(benzyloxy)pyridin-2-yl)-propanamido) methyl)-N-hydroxybenzamide trifluororoacetic acid (Compound 8)
t-Butyl 3-(5-(benzyloxy)pyridin-2-yl)-1-(4-(hydroxyl-carbamoyl)benzylamino)-1-oxopropan-2-ylcarbamate (0.26 g, 0.5 mmol) was dissolved in TFA/DCM (v/v=1:1) (30 mL) and stirred for 4 h at room temperature (monitored by TLC). The solution was evaporated with DCM three times to give 0.021 g HPW101x048 (81%): mp 151-154° C.; NMR (400 MHz in CDCl3, Bruker AVANCE-400): δ 3.12 (m, 2H, CH2), 4.25 (m, 2H, CH2), 4.40 (m, 1H, CH), 5.15 (s, 1H, OBn), 7.21 (m, 3H, Ar—H), 7.40 (m, 7H, Ar—H), 7.67 (d, 1H, Ar—H, J=8.21 Hz), 7.84 (d, 1H, Ar—H, J=7.96 Hz), 8.26 (br, 2H, NH2), 8.27 (s, 1H, NH), 8.92 (br, 1H, NH), 11.19 (br, 1H, OH).

reactant | t-Butyl 3-(5-(benzyloxy)pyridin-2-yl)-1-(4-(hydroxyl-carbamoyl)benzylamino)-1-oxopropan-2-ylcarbamate | 0.5 mmol, 0.26 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(C(=O)NCC1=CC=C(C=C1)C(NO)=O)NC(OC(C)(C)C)=O | C28H32N4O6
solvent | TFA DCM | 30 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-((2-amino-3-(5-(benzyloxy)pyridin-2-yl)-propanamido) methyl)-N-hydroxybenzamide | NC(C(=O)NCC1=CC=C(C(=O)NO)C=C1)CC1=NC=C(C=C1)OCC1=CC=CC=C1 | C23H24N4O4
